US07897600B2
(4-Chloro-2-fluorophenyl)(6-chloro-2-methyl-8-(morpholinomethyl)imidazo[1,2-b]pyridazin-3-yl)methanol
Combine (4-chloro-2-fluorophenyl)(6-chloro-2-methyl-8-(morpholinomethyl)imidazo[1,2-b]pyridazin-3-yl)methanone (0.43 g, 1.0 mmol) and methanol (15 mL) in a round bottom flask. Place under nitrogen and cool to 0° C. Add sodium borohydride (58 mg, 1.5 equiv.) in one portion. Stir for 5 min at this temperature then remove cooling bath and let warm to RT. After 15 min, quench the reaction with water then extract with EA. Wash the organics with water followed by aqueous saturated sodium chloride. Dry the organics over anhydrous magnesium sulfate. Filter and concentrate in vacuo to give the title compound (0.4 g, 93%). LCMS (4 min)=425.0, 427.0, M+1.

reactant | (4-chloro-2-fluorophenyl)(6-chloro-2-methyl-8-(morpholinomethyl)imidazo[1,2-b]pyridazin-3-yl)methanone | 1.0 mmol, 0.43 g | ClC1=CC(=C(C=C1)C(=O)C1=C(N=C2N1N=C(C=C2CN2CCOCC2)Cl)C)F | C19H17Cl2FN4O2
reactant | sodium borohydride | 58 mg, 1.5 equiv. | [BH4-].[Na+]
solvent | methanol | 15 mL | CO | CH4O
product | (4-Chloro-2-fluorophenyl)(6-chloro-2-methyl-8-(morpholinomethyl)imidazo[1,2-b]pyridazin-3-yl)methanol | 0.4 g, 93% | ClC1=CC(=C(C=C1)C(O)C1=C(N=C2N1N=C(C=C2CN2CCOCC2)Cl)C)F | C19H19Cl2FN4O2
